US09447084B2
4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)benzoic acid
Into a 25-mL round-bottom flask, was placed ethyl 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)benzoate (680 mg, 1.27 mmol, 1.00 equiv), water (5 mL), methanol (10 mL), LiOH (153 mg, 6.39 mmol, 5.00 equiv). The resulting solution was stirred for 2 h at 50° C. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 30 mL of H2O. The resulting solution was extracted with 3×20 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 2×20 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 420 mg (65%) of 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)benzoic acid as a light yellow solid.

reactant | ethyl 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)benzoate | 1.27 mmol, 680 mg, 1.00 equiv | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C(=O)OCC)C=C1)C(F)(F)F)C(F)(F)F | C21H13ClF9NO3
reactant | water | 5 mL | O | H2O
reactant | LiOH | 6.39 mmol, 153 mg, 5.00 equiv | [Li+].[OH-]
solvent | methanol | 10 mL | CO | CH4O
product | 4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)benzoic acid | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C(=O)O)C=C1)C(F)(F)F)C(F)(F)F | C19H9ClF9NO3
